US08623907B2
To a mixture of 2,2,6,6-tetramethylpyran-3,5-dione (described in U.S. Pat. No. 5,089,046A) (0.296 g, 1.74 mmol) and N,N-dimethylaminopyridine (1.06 g, 8.70 mmol) is added anhydrous chloroform (20 ml), followed by stirring at room temperature until dissolution. To this solution is added anhydrous toluene (5 ml), followed by 4′-chloro-4-methylbiphenyl-3-yllead triacetate (1.12 g, 1.91 mmol) in one portion and the reaction mixture heated at 80° C. for 1-2 hours. The mixture is allowed to cool to room temperature, then diluted with dichloromethane (150 ml) and dilute aqueous hydrochloric acid (30 ml), followed by stirring for 5 minutes and filtration through diatomaceous earth to remove inorganic residues (additional washing with solvents). All organic fractions are combined, dried over anhydrous magnesium sulfate and concentrated in vacuo. The crude product is purified by column chromatography (100% hexane to hexane/ethyl acetate 5:1 ratio) then triturated with hexanes to afford 4-(4′-chloro-4-methylbiphenyl-3-yl)-2,2,6,6-tetramethylpyran-3,5-dione (0.318 g) as a cream powder.

reactant | 2,2,6,6-tetramethylpyran-3,5-dione | CC1(OC(C(CC1=O)=O)(C)C)C | C9H14O3
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4′-chloro-4-methylbiphenyl-3-yllead triacetate | 1.91 mmol, 1.12 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].ClC1=CC=C(C=C1)C1=CC(=C(C=C1)C)[Pb+3]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 4-(4′-chloro-4-methylbiphenyl-3-yl)-2,2,6,6-tetramethylpyran-3,5-dione | 0.318 g | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)C)C1C(C(OC(C1=O)(C)C)(C)C)=O | C22H23ClO3
